US07872003B2
1-Oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (100 mg, 0.47 mmol) and morpholine (42 μL, 0.48 mmol, 1.03 eq) were stirred in EtOH at RT overnight. Solvent was removed in vacuo and the residue purified by flash chromatography (silica gel, 4% MeOH/DCM) to give 4-hydroxy-4-morpholin-4-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester as a white solid (91.4 mg, 67%).

reactant | 1-Oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | 0.47 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | morpholine | 0.48 mmol, 42 μL, 1.03 eq | N1CCOCC1 | C4H9NO
solvent | EtOH | CCO | C2H6O
product | 4-hydroxy-4-morpholin-4-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester | 91.4 mg, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CN1CCOCC1)O | C15H28N2O4
